US06211199B1
58.6 Synthesis of 1-(2-(3-carboxypropyloxy)-5-(1H-tetrazol-1-yl)benzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine
Combine 1-(2-(3-carboxypropyloxy)-5-(1H-tetrazol-1-yl)benzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine lithium salt (0.24 mmol) and dichloromethane (5 mL). Add a solution of hydrochloric acid in dioxane (0.18 mL, 4 M, 0.72 mmol). Add methanol (5 mL) and evaporate in vacuo to give a residue. Partition the residue between a saturated aqueous sodium bicarbonate solution and ethyl acetate. Separate the organic layer and extract with a saturated aqueous sodium bicarbonate solution and then brine. Dry the organic layer over Na2SO4, filter, and evaporate in vacuo to give the title compound.

reactant | 1-(2-(3-carboxypropyloxy)-5-(1H-tetrazol-1-yl)benzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine lithium salt | 0.24 mmol | [Li].C(=O)(O)CCCOC1=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCC(CC2)NC2=NC3=C(N2CCOCC)C=CC=C3)C=C(C=C1)N1N=NN=C1
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 0.72 mmol, 4 M, 0.18 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-(2-(3-carboxypropyloxy)-5-(1H-tetrazol-1-yl)benzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine | C(=O)(O)CCCOC1=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCC(CC2)NC2=NC3=C(N2CCOCC)C=CC=C3)C=C(C=C1)N1N=NN=C1 | C40H49N9O5
